US04277486
Thionyl chloride (5 ml.) and 2.0 g. of 1-[2-(6-methyl-2-naphthyl)-2-hydroxyethyl]imidazole are stirred at room temperature for about 20 minutes. Thereafter, the solution is evaporated to dryness and the residue is treated with ethyl acetate and filtered to yield 1-[2-(6-methyl-2-naphthyl)-2-chloroethyl]imidazole hydrochloride.

reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-[2-(6-methyl-2-naphthyl)-2-hydroxyethyl]imidazole | CC=1C=C2C=CC(=CC2=CC1)C(CN1C=NC=C1)O | C16H16N2O
product | 1-[2-(6-methyl-2-naphthyl)-2-chloroethyl]imidazole hydrochloride | Cl.CC=1C=C2C=CC(=CC2=CC1)C(CN1C=NC=C1)Cl | InChI=1S/C16H15ClN2.ClH/c1-12-2-3-14-9-15(5-4-13(14)8-12)16(17)10-19-7-6-18-11-19;/h2-9,11,16H,10H2,1H3;1H
